US06649643B1
Production of 6-Bromo-2-hydroxy-1-naphthaldehyde
To a solution of 2-hydroxy-1-naphthaldehyde (60.0 g) in AcOH (300 mL) was added dropwise a solution of bromine (66.8 g) in AcOH (30 mL) over 30 min. After being stirred for 1 h, the mixture was poured into aqueous Na2S2O3 solution, and the resulting mixture was extracted with AcOEt. The combined organic layers were washed with water, 1N-NaOH, and brine followed by drying over MgSO4. After removal of the solvent in vacuo, the residue was washed with EtOH to give a yellow powder. The powder was crystallized from iPrOH to afford the title compound (28.8 g) as pale yellow needles.

reactant | 2-hydroxy-1-naphthaldehyde | 60.0 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | bromine | 66.8 g | BrBr | Br2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | AcOH | 300 mL | CC(=O)O | C2H4O2
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 6-Bromo-2-hydroxy-1-naphthaldehyde | 28.8 g | BrC=1C=C2C=CC(=C(C2=CC1)C=O)O | C11H7BrO2
